data/pmechdb/original/mc_train_fold0/raw/train.txt
C1CCC(=C(C1)C[C:20](=[O:21])C2=CC=C(C=C2)Cl)[NH2:10].CO.N.O>>C1CCC2=C(C1)C[C:20]([NH2+:10]2)(C3=CC=C(C=C3)Cl)[O-:21].CO.N.O 10=20;20,21=21
[H:20][NH+:21]1C(=CCC1(C2=CC(=CC(=C2)C3=CC=C(N3)C)C4=CC=C(N4)C)O)C.CC(=O)[O-:10].C(=O)[O-].O>>[H:20][O:10]C(=O)C.CC1=CCC([NH:21]1)(C2=CC(=CC(=C2)C3=CC=C(N3)C)C4=CC=C(N4)C)O.C(=O)[O-].O 10=20;20,21=21
[H:20][C:21](C1=CC=CC=C1)([C:22](=[O:23])C(C)C)C(CC2=CC=CC=C2)(C(C)C)O.[OH-:10]>>[H:20][OH:10].CC(C)[C:22](=[C:21](C1=CC=CC=C1)C(CC2=CC=CC=C2)(C(C)C)O)[O-:23] 10=20;22,23=23;20,21=21,22
CC1CC=CC(=C1C(=O)OCC[Si](C)(C)C)[O-:10].CC(C)(C)[Si:20](C)(C)OS(=O)(=O)C(F)(F)F.[HH].[Na+]>>CC1CC=CC(=C1C(=O)OCC[Si](C)(C)C)[O:10][Si-:20](C)(C)(C(C)(C)C)OS(=O)(=O)C(F)(F)F.[HH].[Na+] 10=20,
[H:20][N:21]1C2=C(C=CC=C2)C3=CC=CC=C31.[OH:10][K]>>[H:20][OH+:10][K].C1=CC=C2C(=C1)C3=C([N-:21]2)C=CC=C3 10=20;20,21=21
COC1=CC=C(C=C1)[C:10](C2=CC=CC=C2)(C3=CC=C(C=C3)OC)[Cl:11].CC1=CN(C(=O)NC1=O)C2CC(C(O2)CO)O.C1=CC=NC=C1>>COC1=CC=C(C=C1)[C+:10](C2=CC=CC=C2)C3=CC=C(C=C3)OC.[Cl-:11].CC1=CN(C(=O)NC1=O)C2CC(C(O2)CO)O.C1=CC=NC=C1 10,11=11
[H:20][OH2+:21].CC([N:10](C)C)O>>[H:20][N+:10](C)(C)C(C)O.[OH2:21] 10=20;20,21=21
[Li:11][C:10]1(SCCCS1)CC(COCC2=CC=CC=C2)O[Si](C)(C)C(C)(C)C.CC(C)(C)[Si](C)(C)OC(CC1(SCCCS1)CC(CC2[CH2:20][O:21]2)[O-])COCC3=CC=CC=C3.[Li+].CC(C)C>>CC(C)(C)[Si](C)(C)OC(CC1(SCCCS1)CC(CC([CH2:20][C:10]2(SCCCS2)CC(COCC3=CC=CC=C3)O[Si](C)(C)C(C)(C)C)[O-:21])[O-])COCC4=CC=CC=C4.[Li+:11].[Li+].CC(C)C 10,11=10,20;20,21=21
C[CH:20]([NH3+:21])[O:10]C>>C[CH:20]=[O+:10]C.[NH3:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C1=CC=C(C=C1)C.C1=CC=C(C=C1)C=[O:10].CC(CO)(CO)C(=O)O>>[H:20][O+:10]=CC1=CC=CC=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-:21].CC(CO)(CO)C(=O)O 10=20;20,21=21
CCC[C:20](=[O:21])OC(C)C.[OH-:10]>>CCC[C:20]([OH:10])([O-:21])OC(C)C 10=20;20,21=21
[H:20][N+:21]1=C2CCCCCN2CCC1.CC(=O)NC1=CC=C(C=C1)S(=O)(=O)[N-:10]N=NC(C2=CC=CC=C2)C(=O)OC3C4=C(C=CC=C4)N(C3=O)CC5=CC=CC=C5>>[H:20][N:10](N=NC(C1=CC=CC=C1)C(=O)OC2C3=C(C=CC=C3)N(C2=O)CC4=CC=CC=C4)S(=O)(=O)C5=CC=C(C=C5)NC(=O)C.C1CCC2=[N:21]CCCN2CC1 10=20;20,21=21
CC1=CC=C(C=C1)S(=O)(=O)[O:21][CH2:20]CC2C[CH:10]=[CH:11]C2.CC(=O)O>>CC1=CC=C(C=C1)S(=O)(=O)[O-:21].C1[CH2:20][CH:10]2CC1C[CH+:11]2.CC(=O)O 10,11=10,20;20,21=21
[H:20][CH:21]1[C:22](=[OH+:23])C(CC2C13CCNC2CC4=C3C(=C(C=C4)OC)O)OC.COC1CC2C3CC4=C(C2(CC[NH:10]3)CC1=O)C(=C(C=C4)OC)O.CS(=O)(=O)[O-]>>[H:20][NH+:10]1CCC23CC(=O)C(CC2C1CC4=C3C(=C(C=C4)OC)O)OC.COC1CC2C3CC4=C(C2(CCN3)[CH:21]=[C:22]1[OH:23])C(=C(C=C4)OC)O.CS(=O)(=O)[O-] 10=20;22,23=23;20,21=21,22
CN1CC[C:20](CC1)([N:10]2CCN(CC2)C3=CC=C(C=C3)C4=CC5=C(C=C4)N(C6=C5C(=CC=N6)Cl)S(=O)(=O)C7=CC=CC=C7)[OH2+:21].CC(=O)[O-]>>CN1CC[C:20](=[N+:10]2CCN(CC2)C3=CC=C(C=C3)C4=CC5=C(C=C4)N(C6=C5C(=CC=N6)Cl)S(=O)(=O)C7=CC=CC=C7)CC1.[OH2:21].CC(=O)[O-] 10=20;20,21=21
CCOC(=O)NN(C(=O)OCC)[P+:20](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.CN1CC(CC1=O)[OH:10].C1=CC(=CC=C1C(=O)[O-])[N+](=O)[O-]>>CCOC(=O)NN(C(=O)OCC)[P:20](C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)[OH+:10]C4CC(=O)N(C4)C.C1=CC(=CC=C1C(=O)[O-])[N+](=O)[O-] 10=20,
C1=CC=C(C=C1)C(C[C:20](C2=C3C=CC=CC3=CC=C2)([NH:10]CC(=O)O)[OH2+:21])C(=O)C4=CC=CO4.CC(=O)[O-]>>C1=CC=C(C=C1)C(C[C:20](=[NH+:10]CC(=O)O)C2=C3C=CC=CC3=CC=C2)C(=O)C4=CC=CO4.[OH2:21].CC(=O)[O-] 10=20;20,21=21
CC1(CCCC2(C1C(C=C3C2(C([O+:11](C3)[Si-:10](C)(C)(C(C)(C)C)F)[O-])O)O[Si-](C)(C)(C(C)(C)C)F)C)C.CC[N+](CC)(CC)CC>>CC1(CCCC2(C1C(C=C3C2(C([O:11]C3)[O-])O)O[Si-](C)(C)(C(C)(C)C)F)C)C.CC(C)(C)[Si:10](C)(C)F.CC[N+](CC)(CC)CC 10,11=11
C[N:10](C)N.C1=CC(=CC=C1[CH2:20][Br:21])C#N>>C[N+:10](C)([CH2:20]C1=CC=C(C=C1)C#N)N.[Br-:21] 10=20;20,21=21
C1=CC2=C(C=C1)O[C:20](=[O:21])C(C2Br)Br.[OH-:10]>>C1=CC2=C(C=C1)O[C:20](C(C2Br)Br)([OH:10])[O-:21] 10=20;20,21=21
[B-]([O+:21]=[C:20](C)[O:10][CH2:11][C:12]1=[CH:13][O:14]C(C(C1OCCCC)OCCCC)COCCCC)(F)(F)F.CC1=CC=C(C=C1)O>>[B-]([O:21][C:20](=[O:10])C)(F)(F)F.CCCCOCC1C(C([C:12](=[CH2:11])[CH:13]=[O+:14]1)OCCCC)OCCCC.CC1=CC=C(C=C1)O 10,11=10,20;20,21=21;12,13=11,12;14=13
C[Si](C)(C)OCC[O+:11](C1(CCC2=C(O1)C=CC=C2)O[Si](C)(C)C)[Si-:10](C)(C)(C)OS(=O)(=O)C(F)(F)F>>C[Si](C)(C)OCC[O:11]C1(CCC2=C(O1)C=CC=C2)O[Si](C)(C)C.C[Si:10](C)(C)OS(=O)(=O)C(F)(F)F 10,11=11
CCC1=CC(=C(C(=C1)C)[S:10]C[CH:20](C)[O:21]S(=O)(=O)C2=CC=C(C=C2)C)C.CO.N>>CCC1=CC(=C(C(=C1)C)[S+:10]2C[CH:20]2C)C.CC1=CC=C(C=C1)S(=O)(=O)[O-:21].CO.N 10=20;20,21=21
CS[CH+:20][O-:10]>>CS[CH:20]=[O:10] 10=20,
CCCNC(=O)C1[CH:20]([O:21]1)C(=O)NC(C(C)CC)C(=O)N2CCCC2C(=O)[O-].CNC(C[O-:10])C(=O)OC>>CCCNC(=O)C([CH:20](C(=O)NC(C(C)CC)C(=O)N1CCCC1C(=O)[O-])[O:10]CC(C(=O)OC)NC)[O-:21] 10=20;20,21=21
[H:20][N+:21](CC)(CC)CC.CC1=C(SC(=[N+]1CC2=CC=CC=C2)C(C(C)C)[O-:10])CCO.CC(=O)C=C.[Cl-]>>[H:20][O:10]C(C1=[N+](C(=C(S1)CCO)C)CC2=CC=CC=C2)C(C)C.CC[N:21](CC)CC.CC(=O)C=C.[Cl-] 10=20;20,21=21
CC(C)[OH+:11][Al-:10](OC)(OC(C)C)OC(C)C.CC(C)[O-]>>CC(C)[OH:11].CC(C)O[Al:10](OC)OC(C)C.CC(C)[O-] 10,11=11
[H:20][OH2+:21].CC[NH:10]C(C)(C)O>>[H:20][NH+:10](CC)C(C)(C)O.[OH2:21] 10=20;20,21=21
CCC(C)O[Si:20](C)(C)C.[F-:10]>>CCC(C)O[Si-:20](C)(C)(C)[F:10] 10=20,
